US07470679B2
Methyl 3-chloro-2-nitrobenzoate
To 3-chloro-2-nitrobenzoic acid (3.15 g, 15.6 mmol) in methanol/acetonitrile (20 mL/20 mL) was dropwise added TMSCHN2 (2N in hexanes, 11.7 mL, and 23.4 mmol) at 0° C. under N2 over 10 min until the yellow color persist. The mixture was continued stirring for 20 min, followed by dropwise addition of HOAc until the yellow color disappeared to kill excessive TMSCHN2. Partial of the solvent was removed on rotary vacuum, the product came out solution as a light yellow solid, which was filtered and washed with Et2O (2×2 mL) to afford the expected product as a white solid(2.5 g, 74% yield); 1H NMR (400 MHz, CDCl3) δppm 3.91 (s, 3H), 7.51 (t, J=8.06 Hz, 1H), 7.70 (dd, J=8.06, 1.26 Hz, 1H), 7.97 (dd, J=7.81, 1.26 Hz, 1H); Mass spec. 216.02 (MH+), Calc. for C8H6ClNO4 215.00.

reactant | 3-chloro-2-nitrobenzoic acid | 15.6 mmol, 3.15 g | ClC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H4ClNO4
reactant | TMSCHN2 | 23.4 mmol, 2N, 11.7 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HOAc | CC(=O)O | C2H4O2
solvent | methanol acetonitrile | 20 mL | CO.C(C)#N
product | Methyl 3-chloro-2-nitrobenzoate | 2.5 g, 74% yield | ClC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C8H6ClNO4
